US07544835B2
e) Ethyl 3-[1-(2-hydroxyethyl)-1H-indol-3-yl]-2-isopropoxypropionate
0.3 g of Ethyl 3-(1-carboxymethyl-1H-indol-3-yl)-2-isopropoxypropionate was dissolved in 10 ml of tetrahydrofuran, and 0.2 ml of triethylamine was added under ice-cooling, followed by 0.1 ml of ethyl chloroformate, then the mixture was stirred at 0° C. for 15 minutes. After filtering off the precipitated insoluble substances, the reaction solution was again cooled with ice, and 60 mg of sodium borohydride and water were added, and stirring was continued at room temperature for 1 hour. The reaction solution was cooled with ice, acidified with diluted hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was subjected to silica gel column chromatography (33% ethyl acetate-hexane), to give 143 mg of the title compound.

reactant | Ethyl 3-(1-carboxymethyl-1H-indol-3-yl)-2-isopropoxypropionate | 0.3 g | C(=O)(O)CN1C=C(C2=CC=CC=C12)CC(C(=O)OCC)OC(C)C | C18H23NO5
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.1 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl 3-[1-(2-hydroxyethyl)-1H-indol-3-yl]-2-isopropoxypropionate | 143 mg | OCCN1C=C(C2=CC=CC=C12)CC(C(=O)OCC)OC(C)C | C18H25NO4
